US05360813
3-(2,5-Dichlorobenzenesulfonamido)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
Following the procedure described in the preceeding examples but using 2-(2,4-dichlorophenyl)-3-amino-1-(1H-1,2,4-triazol-1-yl)propan-2-ol and 2,5-dichlorobenzenesulfonylchloride, the title compound was obtained in a similar yield:

reactant | 2-(2,4-dichlorophenyl)-3-amino-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CN)O | C11H12Cl2N4O
reactant | 2,5-dichlorobenzenesulfonylchloride | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 3-(2,5-Dichlorobenzenesulfonamido)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)NCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C17H14Cl4N4O3S
